US05492897
a) 2-Amino-6-methoxy-9-(5-O-propionyl-β-D-arabinofuranosyl)-9H-purine
2-Amino-6-methoxy-9-(β-D-arabinofuranosyl)-9H-purine (1.0 g, 3.3 mmol) (prepared as described in European Patent Application No. 294 114) was suspended in 40 ml of pyridine that contained 300 μL of H2O and 2 ml of trichloroethyl propionate (Trichloroethyl propionate was synthesized by addition of 19 ml of propionyl chloride (Aldrich) over 30 minutes to 19.1 ml of trichlorethanol (Aldrich) in 40 ml of pyridine at 0° C.). The product was purified by successive washing with 2×100 ml aliquots of H2O, 5% NaHCO3, and H2O. 1H NMR (200 MHz, CDCl3, 4.74 (s, 2H, Cl3CH2-), 2.49 (q, 2H, J=7.6 Hz, CH3CH2CO2-), 1.21 (t, 3H, J-7.6 Hz, CH3CH2CO2-). The reaction was initiated with 0.100 g of subtilisin (Sigma Chemical Co., St. Louis, Mo., P-5380, lot No. 38F-0356), whch had been activated by dissolving 1 g of the enzyme in 20 ml of 0.1M potassium phosphate at pH 7.8 and lyophilizing to dryness. After stirring for 23 hours at 40° C., the reaction was quenched by filtering off the enzyme and the solvent was removed in vacuo. The crude product was purified by chromatography on a 4.5×25 cm silica gel column with CH2Cl2 :CH3OH (9:1) as eluant. Product fractions were pooled and lyophilized from water to yield 0.76 g of the desired product as a white powder: m.p. 124° C.; TLC Rf =0.43 (silica gel; CH2Cl2 :CH3OH (9:1); UV λmax (ε, mM-1 cm-1) at pH 7.0, 2.78 nm (9.5).

reactant | 2-Amino-6-methoxy-9-(β-D-arabinofuranosyl)-9H-purine | 3.3 mmol, 1.0 g | NC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H](O)[C@H](O)[C@H](O1)CO)OC | C11H15N5O5
reactant | H2O | 300 μL | O | H2O
reactant | trichloroethyl propionate | 2 ml | C(CC)(=O)OCC(Cl)(Cl)Cl | C5H7Cl3O2
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 2-Amino-6-methoxy-9-(5-O-propionyl-β-D-arabinofuranosyl)-9H-purine | 0.76 g | NC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H](O)[C@H](O)[C@H](O1)COC(CC)=O)OC | C14H19N5O6
